US06352982B1
N-Methyl-N-methyloxy-2-amino-5-isobutyloxybenzamide (0.6 g) and N-tert-butoxycarbonyl 3-bromobenzylamine (0.76 g) were dissolved in tetrahydrofuran (18 ml). The solution was cooled to −78° C., to which was added dropwise, while stirring, 9 ml of a hexanoic solution of n-butyl lithium (1.6 mol./L) over 20 minutes. To the reaction mixture were added water (50 ml) and ethyl acetate (50 ml). The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off. The residue was purified by means of a silica gel column chromatography to give 2-amino-3′-tert-butoxycarbonylaminomethyl-5-isobutyloxy-benzophenone as a yellow oily product (0.38 g).

reactant | N-Methyl-N-methyloxy-2-amino-5-isobutyloxybenzamide | 0.6 g | CN(C(C1=C(C=CC(=C1)OCC(C)C)N)=O)OC | C13H20N2O3
reactant | N-tert-butoxycarbonyl 3-bromobenzylamine | 0.76 g | C(C)(C)(C)OC(=O)NCC1=CC(=CC=C1)Br | C12H16BrNO2
reactant | n-butyl lithium | 1.6 mol | C(CCC)[Li]
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-amino-3′-tert-butoxycarbonylaminomethyl-5-isobutyloxy-benzophenone | NC1=C(C(=O)C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)C=C(C=C1)OCC(C)C | C23H30N2O4
